US08629270B2
(4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
A solution of hydrogen chloride (1 M in diethyl ether) (17 mL, 17 mmol) is added to a solution of (4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine (4.6 g, 14 mmol) in ethyl acetate (46 mL) and stirred for one hour. The solvent is removed under vacuum to give the title compound (5 g, 98%). ES/MS (m/e): 330 (M+H).

reactant | hydrogen chloride | 17 mmol, 1 M, 17 mL | Cl | ClH
reactant | (4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 14 mmol, 4.6 g | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C1=CC=CC=C1 | C16H16FN5S
solvent | ethyl acetate | 46 mL | C(C)(=O)OCC | C4H8O2
product | (4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | 5 g, 98% | Cl.FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C1=CC=CC=C1 | InChI=1S/C16H16FN5S.ClH/c17-13-6-19-15(20-7-13)22-8-12-9-23-14(18)21-16(12,10-22)11-4-2-1-3-5-11;/h1-7,12H,8-10H2,(H2,18,21);1H/t12-,16+;/m0./s1
